US04159981
44. H-Gln-Thr(tBu)-Ala-Ile-Gly-OH. Hcl
3.40 g of Z-Gln-Thr(tBu)-Ala-Ile-Gly-OH are dissolved in 70 ml of warm dimethylformamide. After cooling to room temperature, 5 ml of 1 N hydrochloric acid and 500 mg of Pd on charcoal (10%) are added and the product hydrogenated. After completion of the hydrogenation the catalyst is filtered off by filtering through 1 g of Norite and the filtrate is concentrated to about 10 ml in a high vacuum at 40° C. This solution is added dropwise to 100 ml of ether and the precipitated material is filtered off and washed with ether. The product is dried in a high vacuum at room temperature and on potentiometric titration with 0.1 N sodium hydroxide solution in 80% methanol proves to have a content of 91%.

reactant | Z-Gln-Thr(tBu)-Ala-Ile-Gly-OH | 3.40 g | N([C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)NCC(=O)O)C(=O)OCC1=CC=CC=C1 | C32H50N6O10
reactant | hydrochloric acid | 1 N, 5 ml | Cl | ClH
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
catalyst | Pd on charcoal | 500 mg | [Pd] | Pd
product | H-Gln-Thr(tBu)-Ala-Ile-Gly-OH | N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)NCC(=O)O | C24H44N6O8
